Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Overdose
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ heroin abuser with a hx of HCV p/w altered mental status s/p 
ingestion of up to 80 tabs of 0.25 mg risperidone 45 mins PTA. 
In the ED, she had an initial RR of 30, HR 120s and was 
somnolent and had pinpoint pupils. She received 0.4 mg naloxone 
with improved her mental status changes. The initial ECG 
revealed QRS 80, QTc 439. She denies taking other drugs except 
her usual daily dose of lithium, paroxetine and lamotrigine. 
Last heroin use was reported to be two days ago per Toxicology 
but ED resident states earlier today.
.
Exam in ED revealed HR 143, SBP 155, RR ___, sat 100%. A&Ox3, 
mild somnolence with alternating periods of agitation. Pinpoint 
pupils, reactive, no nystagmus, mmm. CTAB, S1S2, tachy. Soft, 
NT/ND, nl BS. Warm, dry. No focal deficits, nl DTRs, no clonus.
.
Per Toxicology evaluation, patient did not warrant charcoal; 
sent aspirin and lithium levels.  Also thought Risperdal is 
fairly benign but can act as an anticholinergic.  Positive 
opiates in ED.  Did want 6 hour lithium level (9pm) since 
initial level will not reflect acute ingestion.  Reports active 
suicidal ideation but that she regrets current overdose.  Given 
IVF > 2L in ED.
.
Upon transfer to ICU, VS afebrile, 100, 104/64, ___, 100%/RA.  
 Patient confirms history as above, but states she has not used 
heroin for ___ days.  She had been taking her medications as 
prescribed, then decided to finish whole bottle of Risperidone 
b/c she was depressed.  Called father 15 minutes later and was 
BIBA.  Endorses nausea and fatigue.
.
Review of sytems: As above, also endorses recent URI including 
runny nose and sinus congestion x several days.

 
Past Medical History:
Bipolar disorder - h/o cutting, last inpatient psych ___ 
___
HCV - Not treated
Heroin abuse - last used ___ days PTA
Tobacco use
Breast reduction surgery - ___

 
Social History:
___
Family History:
Both parents with depression, no history of suicide
 
Physical Exam:
Vitals: T: 98.1 BP: 128/59 P: 76 R:17 O2: 97/RA 
General: Somnolent but rousable, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, mildly distended, bowel sounds 
present, no rebound tenderness or guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CN II-XII intact, pupils 2mm, reactive

 
Pertinent Results:
___ 08:53PM   LITHIUM-1.0
___ 04:50PM URINE  HOURS-RANDOM
___ 04:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 04:50PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:04PM   LACTATE-1.2
___ 03:55PM   GLUCOSE-119* UREA N-9 CREAT-0.7 SODIUM-141 
POTASSIUM-3.6 CHLORIDE-109* TOTAL CO2-24 ANION GAP-12
___ 03:55PM   ALT(SGPT)-36 AST(SGOT)-32 ALK PHOS-74 TOT 
BILI-0.3
___ 03:55PM   LIPASE-19
___ 03:55PM   ALBUMIN-3.8
___ 03:55PM   LITHIUM-0.7
___ 03:55PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:55PM   WBC-9.3 RBC-3.79* HGB-11.5* HCT-34.8* MCV-92 
MCH-30.3 MCHC-33.0 RDW-13.9
___ 03:55PM   NEUTS-75.2* ___ MONOS-4.1 EOS-0.8 
BASOS-0.2
___ 03:55PM   PLT COUNT-___ with history of heroin abuse, bipolar disorder and hepatitis 
C initially admitted to MICU for risperidone overdose. She 
ingested ~80 tablets of risperidone as a suicide attempt, but 
then activated EMS and presented to ED. She also reported using 
heroin on the day of admission. She was monitored in the ICU, 
serial EKG's were obtained and there were no changes in her QT 
interval. She was called out to the floor where she did well. 
She had multiple episodes of sinus tachycardia to 140-150's with 
activity as part of withdrawal, but was completely asymptomatic 
and hemodynamically stable wtih these episodes. She had a 
urinary tract infection identified on admission with 
enterococcus sensitive to macrobid and was started on a 5 day 
course of macrobid. 
.
Psychiatry was consulted who felt that she needed to be 
transferred to the inpatient psychiatric unit as she was still 
actively suicidal. She was sectioned then transferred to 
psychiatric floor on hospital day #?. 
.

 
Medications on Admission:
Lithium 900mg daily  
Risperdal 0.5mg daily  
Lamictal 125mg daily  
Paxil 37.5mg daily 
 
Discharge Medications:
1. Lamictal 25 mg Tablet, Dispersible Sig: Five (5) Tablet, 
Dispersible PO once a day.  
2. Risperdal 0.5 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Lithium Carbonate 300 mg Tablet Sustained Release Sig: Three 
(3) Tablet Sustained Release PO once a day.  
4. Paxil 40 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Risperidone intoxication
Heroin intoxication
Suicide attempt
Bipolar disorder
Hepatitis C
Nicotine abuse

 
Discharge Condition:
Hemodynamcially stable and afebrile.

 
Discharge Instructions:
You were admitted to the hospital after taking an overdose of 
risperidone at home. You were intially admitted to the ICU for 
closer monitoring, then to the general medical floor. You had no 
complications from the medications you took. 

You were evaluated by psychiatry who felt that you needed an 
inpatient hospitalization and you were discharge to the 
inpatient psychiatric unit. 

You are strongly advised to refrain from using drugs. You are at 
high risk of doing harm to yourself if you continue using drugs. 

 
Followup Instructions:
___